US08084614B2
To 1,3,4,5-tetrahydro-benzo[b]azepin-2-one (1 g, 6.2 mmol) in MeOH (8 mL), concentrated sulfuric acid (0.5 mL) was added and the mixture was stirred at room temperature for 2 hrs and at 70° C. for an additional hr. The solvent was removed and DCM and water were added. The organic layer was removed and the aqueous layer was basified with sat NaHCO3 and extracted with EtOAc (3×). The combined organic layers were washed with brine, dried (Na2SO4) and concentrated in vacuo to yield 4-(2-amino-phenyl)-butyric acid methyl ester (0.93 g). MS [M+H]+: 194.1; tR=1.49 min. (method 1)

reactant | 1,3,4,5-tetrahydro-benzo[b]azepin-2-one | 6.2 mmol, 1 g | N1C2=C(CCCC1=O)C=CC=C2 | C10H11NO
reactant | MeOH | 8 mL | CO | CH4O
solvent | sulfuric acid | 0.5 mL | S(O)(O)(=O)=O | H2O4S
product | 4-(2-amino-phenyl)-butyric acid methyl ester | 0.93 g | COC(CCCC1=C(C=CC=C1)N)=O | C11H15NO2
